US04657893
A twofold stoichiometric excess of 3% hydrogen chloride in dioxane is added to a solution of 1.0 g. of 2-isopropylamino-5-methyl-4H-3,1-benzoxazin-4-one in 20 ml dioxane. Diethyl ether is added until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized to give 2-isopropylamino-5-methyl-4H-3,1-benzoxazin-4-one hydrochloride.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-isopropylamino-5-methyl-4H-3,1-benzoxazin-4-one | C(C)(C)NC1=NC2=C(C(O1)=O)C(=CC=C2)C | C12H14N2O2
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-isopropylamino-5-methyl-4H-3,1-benzoxazin-4-one hydrochloride | Cl.C(C)(C)NC1=NC2=C(C(O1)=O)C(=CC=C2)C | InChI=1S/C12H14N2O2.ClH/c1-7(2)13-12-14-9-6-4-5-8(3)10(9)11(15)16-12;/h4-7H,1-3H3,(H,13,14);1H
